US05914344
(2) 2-(1,3-Dimethylbutyl)aniline
The desired compound was prepared by carrying out the same procedures as described in Example 9(2) except that 4-chloro-2-(3-methylpentyl)nitrobenzene was replaced by 4-chloro-2-(1,3-dimethylbutyl)nitrobenzene.

reactant | 4-chloro-2-(3-methylpentyl)nitrobenzene | ClC1=CC(=C(C=C1)[N+](=O)[O-])CCC(CC)C | C12H16ClNO2
reactant | 4-chloro-2-(1,3-dimethylbutyl)nitrobenzene | ClC1=CC(=C(C=C1)[N+](=O)[O-])C(CC(C)C)C | C12H16ClNO2
product | 2-(1,3-Dimethylbutyl)aniline | CC(CC(C)C)C1=C(N)C=CC=C1 | C12H19N
